US09328116B2
To a solution of 1-[1-(4-chlorophenyl)-5-isopropylpyrazol-4-yl]-3-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]pyrrolidin-2-one (50 mg, 0.11 mmol) was added DMF (2 mL) and NaH (60% in mineral oil, 16 mg, 0.33 mmol) slowly at room temperature under nitrogen atmosphere. After stirring for 10 min at room temperature, MeI (34 μL, 0.55 mmol) was added and further stirred for 2 h. Saturated NH4Cl solution (10 mL) was then added at 0° C. slowly to the reaction mixture followed by extraction with EtOAc (2×25 mL). The combined EtOAc layers were dried (MgSO4), concentrated in vacuo, and purified by reverse phase HPLC (C18 column, acetonitrile-H2O with 0.1% TFA as eluent) to give 1-[1-(4-chlorophenyl)-5-isopropyl-pyrazol-4-yl]-3-methyl-3-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]pyrrolidin-2-one (17 mg, 0.029 mmol, 27% yield) as a TFA salt. 1H NMR (400 MHz, Methanol-d4) δ 7.88 (s, 1H), 7.70 (s, 1H), 7.59 (d, J=11.76 Hz, 2H), 7.42 (d, J=11.76 Hz, 2H), 3.86-3.95 (m, 2H), 2.99-3.08 (m, 1H), 2.58-2.80 (m, 2H), 2.52 (s, 3H), 1.96 (s, 3H), 1.22 (d, J=23.4 Hz, 3H), 1.20 (d, J=23.4 Hz, 3H); MS: (ES) m/z calculated for C22H23ClF3N5O [M+H]+466.9. found 466.1.

reactant | 1-[1-(4-chlorophenyl)-5-isopropylpyrazol-4-yl]-3-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]pyrrolidin-2-one | 0.11 mmol, 50 mg | ClC1=CC=C(C=C1)N1N=CC(=C1C(C)C)N1C(C(CC1)N1C(=NC(=C1)C(F)(F)F)C)=O | C21H21ClF3N5O
reactant | NaH | 0.33 mmol, 16 mg | [H-].[Na+]
reactant | MeI | 0.55 mmol, 34 μL | CI | CH3I
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-[1-(4-chlorophenyl)-5-isopropyl-pyrazol-4-yl]-3-methyl-3-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]pyrrolidin-2-one | 0.029 mmol, 17 mg, 27% yield | ClC1=CC=C(C=C1)N1N=CC(=C1C(C)C)N1C(C(CC1)(N1C(=NC(=C1)C(F)(F)F)C)C)=O | C22H23ClF3N5O
